US04929613
1-Cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1,2,3,6-tetrahydro-4-pyridyl)-3-quinolinecarboxylic acid.
A solution of 0.80 g (2.01 mmol) of ethyl 7-(1-acetyl-1,2,3,6-tetrahydro-4-pyridyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate in 50 ml of 6 N hydrochloric acid was heated on a steam bath for 2.75 hours. The mixture was evaporated to dryness, redissolved in water, filtered and titrated to pH 7 with dilute sodium hydroxide. The precipitated title compound was filtered and dried.

reactant | ethyl 7-(1-acetyl-1,2,3,6-tetrahydro-4-pyridyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 2.01 mmol, 0.80 g | C(C)(=O)N1CCC(=CC1)C1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)OCC)=O)F | C22H23FN2O4
solvent | hydrochloric acid | 6 N, 50 ml | Cl | ClH
product | 1-Cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1,2,3,6-tetrahydro-4-pyridyl)-3-quinolinecarboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)C=1CCNCC1)F)=O)C(=O)O | C18H17FN2O3
